US06248767B1
D. 5-Chlorosulfonyl-2-(4-ethylphenyl)thiophene
A solution of N-[5-(4-ethylphenyl)thiophene-2-sulfonyl]pyrrole (100 mg, 0.32 mmol) and 6 N sodium hydroxide (1 mL) in methanol (1.5 ml) was refluxed for approximately 6 h. Evaporation of solvents and drying in vacuo resulted in an oil. Phosphorus oxychloride (258 ml, 2.52 mmol) and phosphorus pentachloride (131 mg, 0.63 mmol) were added to the oil and the resulting brown suspension was heated at 50° C. for 3 h. The resulting clear brown solution was carefully added to about 20 mL of crushed ice and then extracted with ethyl acetate (3×25 mL). The combined organic layers was washed with brine (2×5 mL), dried (MgSO4) and evaporated to leave an oily residue. Flash chromatography over silica gel using 2% ethyl acetate/hexanes yielded (53 mg, 59%) of the pure ulfonyl chloride as a pale yellow oil.

reactant | N-[5-(4-ethylphenyl)thiophene-2-sulfonyl]pyrrole | 0.32 mmol, 100 mg | C(C)C1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1C=CC=C1 | C16H15NO2S2
reactant | sodium hydroxide | 6 N, 1 mL | [OH-].[Na+]
reactant | Phosphorus oxychloride | 2.52 mmol, 258 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentachloride | 0.63 mmol, 131 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methanol | 1.5 ml | CO | CH4O
product | 5-Chlorosulfonyl-2-(4-ethylphenyl)thiophene | ClS(=O)(=O)C1=CC=C(S1)C1=CC=C(C=C1)CC | C12H11ClO2S2
